* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU77806
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU77806 +IN -IN V+ V- OUT
X_U1 +IN -IN V+ V- OUT NJU77806_s
.ends NJU77806
*$
* connections:          non-inverting input
*                       | inverting input
*                       | | positive power supply
*                       | | | negative power supply
*                       | | | | output
*                       | | | | |
.subckt NJU77806_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 13 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}
.MODEL DMOD1 D(T_MEASURED=25 IS=1.41E-66)
.MODEL DMOD2 D(T_MEASURED=25 IS=8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO=	-4.89E-01
+ KP=4.01E-05 L={L_VAL} W={W_VAL} TOX=1.30E-08 U0=1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO=-4.89E-01
+ KP=4.01E-05 L={L_VAL} W={W_VAL} TOX=1.30E-08 U0=1.51E+02)
*
.PARAM
+ C1=	2.08E-11
+ C2=	5.86E-12
+ CS=	0.00E+00
+ GCM=	4.49E-09
+ GA=	4.49E-04
+ GB=	89.11
+ GC=	1446.049072
+ ITL=	6.50E-06
+ RS=	3.08E+07
+ RD1=	2227.77
+ RD2=	2227.77
+ RC=	6.92E-04
+ RS1=	37.37
+ RS2=	37.37
+ RO1=	50
+ RO2=	25
+ RP=	3.50E+05
+ VD=	0.8567
+ VS=	0.8567
+ VOS=	6.45E-04
+ IDS=	429.2E-6
+ VTL=	7.89E-01
+ VRD=	2.50E-01
+ L_VAL=2.00E-06
+ W_VAL=1.60E-03
.ends NJU77806_s
*$
